US04818765
To a solution of n-octyl 3-trifluoromethylphenylacetate (112.2 g) in dimethyl sulphoxide (850 ml) there are added carbon disulphide (30.4 g) and, slowly, a solution of potassium hydroxide (60.0 g) in water (100 ml). The mixture is stirred for 2 hours at 40°. 1,3-dichloropropane (40.1 g) is then added and the mixture is stirred at 50° for 3 hours. Water (800 ml) and hexane (800 ml) are added, the two phases are separated and the aqueous solution is extracted with hexane (2×500 ml). The combined organic phases are washed with water (400 ml), dried over magnesium sulphate and evaporated. The residue is crystallized from pentane. The product is dried in vacuo to constant weight to yield n-octyl (1,3-dithian-2-ylidene)-(3-trifluoromethylphenyl)-acetate, m.p. 49° (as Example 11).

reactant | n-octyl 3-trifluoromethylphenylacetate | 112.2 g | FC(C=1C=C(C=CC1)CC(=O)OCCCCCCCC)(F)F | C17H23F3O2
reactant | carbon disulphide | 30.4 g | C(=S)=S | CS2
reactant | potassium hydroxide | 60.0 g | [OH-].[K+]
reactant | 1,3-dichloropropane | 40.1 g | ClCCCCl | C3H6Cl2
solvent | dimethyl sulphoxide | 850 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
solvent | Water | 800 ml | O | H2O
solvent | hexane | 800 ml | CCCCCC | C6H14
product | n-octyl (1,3-dithian-2-ylidene)-(3-trifluoromethylphenyl)-acetate | S1C(SCCC1)=C(C(=O)OCCCCCCCC)C1=CC(=CC=C1)C(F)(F)F | C21H27F3O2S2
